US04169199
2.88 g (7.94 mmols) of 3-methoxycarbonyl-4-(1-phenylthiotrans-2-octenyl)-oxolane-2-one and 0.98 g (8.73 mmols) of potassium t-butoxide were dissolved in 47 ml of dimethyl sulfoxide in an argon atmosphere and the mixture was stirred for 10 minutes at room temperature. A solution of 2.36 g (8.73 mmols) of methyl 7-iodoheptanoate in 3 ml of dimethyl sulfoxide was added to the above reaction mixture followed by stirring for 19 hours at room temperature. The reaction mixture was then rendered neutral with diluted hydrochloric acid while cooling with ice-water and extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. The extract was filtered and the solvent was removed from the filtrate under reduced pressure. The residue thus obtained was purified by silica gel column chromatography using a mixture of ethyl acetate and n-hexane as an eluent to obtain 3.93 g (98% yield) of 3-methoxycarbonyl-3-(6-methoxycarbonylhexyl)-4-(1-phenylthio-trans- 2-octenyl)-oxolane-2-one as an oily substance.

reactant | 3-methoxycarbonyl-4-(1-phenylthiotrans-2-octenyl)-oxolane-2-one | 7.94 mmols, 2.88 g | COC(=O)C1C(OCC1C(\C=C\CCCCC)SC1=CC=CC=C1)=O | C20H26O4S
reactant | potassium t-butoxide | 8.73 mmols, 0.98 g | CC(C)([O-])C.[K+]
reactant | methyl 7-iodoheptanoate | 8.73 mmols, 2.36 g | ICCCCCCC(=O)OC | C8H15IO2
reactant | hydrochloric acid | Cl | ClH
solvent | dimethyl sulfoxide | 47 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 3 ml | CS(=O)C | C2H6OS
product | 3-methoxycarbonyl-3-(6-methoxycarbonylhexyl)-4-(1-phenylthio-trans- 2-octenyl)-oxolane-2-one | 3.93 g, 98% yield | COC(=O)C1(C(OCC1C(\C=C\CCCCC)SC1=CC=CC=C1)=O)CCCCCCC(=O)OC | C28H40O6S
